US05990101
A 410 mg potion of 3-[N-(2-hydroxyethyl)amino]methyl imidazo[5,1-b]thiazole was dissolved in 6 ml of DMF, and 1.40 ml of triethylamine and 491 mg of sulfamoyl chloride were added thereto at -30° C., followed by stirring at -30 to -20° C. for 4 hours. The reaction solution was concentrated under reduced pressure, dissolved in water, adjusted to pH 7.5 with an aqueous sodium hydrogencarbonate solution, and then purified by Diaion HP-20 Resin and Cephadex LH-20, whereby 59 mg of 3-[N-aminosulfonyl-N-(2-hydroxyethyl)amino]methylimidazo[5,1-b]thiazole was obtained from the first half of the fraction of Cephadex LH-20.

reactant | 3-[N-(2-hydroxyethyl)amino]methyl imidazo[5,1-b]thiazole | OCCNCC=1N2C(SC1)=CN=C2 | C8H11N3OS
reactant | triethylamine | 1.40 ml | C(C)N(CC)CC | C6H15N
reactant | sulfamoyl chloride | 491 mg | S(N)(=O)(=O)Cl | ClH2NO2S
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 3-[N-aminosulfonyl-N-(2-hydroxyethyl)amino]methylimidazo[5,1-b]thiazole | 59 mg | NS(=O)(=O)N(CCO)CC=1N2C(SC1)=CN=C2 | C8H12N4O3S2
